2101-09-16 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2101-9-16**] 01:05 AM
   L CHEST WALL (OSH)
 URINE CULTURE - At [**2101-9-16**] 04:00 AM
   .
   -will need family mtg asap/goals of care discussion.
   -added cipro for gn double coverage.
   -got ~8L IVF
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2101-9-16**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-16**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 120 (115 - 133) bpm
   BP: 96/51(61) {84/46(55) - 108/74(81)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             8,450 mL
   PO:
             TF:
   IVF:
   3,150 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,450 mL
   Urine:
   2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,000 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General: writing in pain, moaning
   HEENT: Nc/AT, EOMI, anicteric, poor dentition.
   Neck: supple
   Lungs: b/l ae, diminished BS, anteriorly.
   CV: Regular rate and rhythm, normal S1 + S2, tachycardic
   Abdomen: +bs, +multiple areas of tubing, urine-cloudy.
   GU: no foley
   Ext: warm, well perfused, 2+ pulses
   neuro: somnolent, answers some questions AAOx1
   Labs / Radiology
   233 K/uL
   9.3 g/dL
   105 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.0 mEq/L
   13 mg/dL
   109 mEq/L
   136 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2101-9-16**]  03:37 AM
   WBC
   9.4
   Hct
   29.3
   Plt
   233
   Cr
   0.9
   Glucose
   105
   Other labs: PT / PTT / INR:14.0/30.9/1.2, ALT / AST:24/39, Alk Phos / T
   Bili:238/0.6, Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.3 %,
   Eos:0.5 %, Albumin:2.5 g/dL, LDH:651 IU/L, Ca++:7.3 mg/dL, Mg++:1.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PYELONEPHRITIS
   Assessment and Plan: Pt is a 51 y.o male with h.o colon ca who presents
   with hypotension found to have a UTI.
   .
   #hypotension-Likely etiologies includes sepsis/infection. Other
   possibilities include hypovolemia vs. ACS vs PE. Most likely etiology
   includes infection secondary to UTI given cloudy/turbid/decreased
   outpt. Pt with normal lactate. Mentating and apparently asymptomatic
   despite BP in 80's while in the ED. However, now, somnolent.
   -map goal >65, to  be given via IVF vs. levophed vs. neo, would favor
   neo given tachycardia.
   -IVF for U.O at least 30cc/hr
   -broad spectrum abx vanco/zosyn/cipro
   -infectious w/u including bcx, ucx, sputum
   -f/u CTA chest/abd/pelvis from ED.
   -CXR
   -tele
   -ROMI
   -obtain OSH records to determine baseline BP as well as extent of dx.
   .
   .
   #goals of care-conversation with pt
s sister reveals, DNR/DNI without
   escalation currently.
   .
   #UTI-evidenced on u/a. Could be explaination to above in addition to
   the multiple surgical procedures.
   -ucx
   -IV vanco/zosyn/cipro for now
   .
   #AMS-Likely secondary to infection, hypotension and narcotic pain
   medication.
   -continue to monitor and consider head imaging if indicated.
   .
   #leukocytosis-pt on steroids, but likely related to infection, given
   hypotension and +u/a with cloudy/turbid urostomy outpt.
   -monitor WBC count and fever curve
   -abx
   -f/u cxs.
   .
   #L.upper lung mass/collapse?-likely exudative from malignancy. However,
   could represent infection or parapneumonic effusion.
   -broad abx for now
   -can consider dx and tx [**Female First Name (un) 217**]
   .
   #widely metastatic colon ca/severe pain-continue pain regimen. Pt with
   reportedly widely metastatic dx s/p resections and ileostomies.
   -OSH/PCP [**Name Initial (PRE) **].
   -aggressive pain control.
   .
   #anemia-MCV 91, unclear baseline.
   -continue to monitor
   -T+S
   -[**Hospital1 7**] HCTs
   -guaiac all stools.
   .
   FEN: reg diet as tolerated, currently NPO as AMS.
   .
   Prophylaxis: Subutaneous heparin, pneumoboots, PPI, bowel reg.
   .
   Access: port-a-cath, 18 gauge.
   .
   Code: Full discussed with pt and HCP, sister [**Name (NI) 9175**].
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-9-16**] 01:04 AM
   Indwelling Port (PortaCath) - [**2101-9-16**] 01:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-16 09:57:00 Physician Attending Progress Note
Chief Complaint: hypotension, sepsis, lung collapse
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with widely metastatic colon ca, presents with hypotension found to
   have a UTI. Complicated goals of care discussion in OSH/ED prior to
   admission given refusal of basic procedures but insisting on being full
   code. In the ED hypotensive not fully responding to fluids. Admitted to
   MICU for further care:
   24 Hour Events:
   -relatively stable overnight, sinus tachycardia
   -continued IVF, 6L positive; sats ok
   -some somnolence
   -writing in pain earlier on admission
                                                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2101-9-16**] 01:30 AM
   Other medications:
   sertraline, gaba, fent, morphine, vanco, famotidine, sqh, colace, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Nutritional Support: NPO
   Signs or concerns for abuse : No
   Pain: [**6-15**] Moderate
   Pain location: abdomen
   Flowsheet Data as of  [**2101-9-16**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 120 (115 - 133) bpm
   BP: 96/51(61) {84/46(55) - 108/74(81)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             8,462 mL
   PO:
             TF:
   IVF:
   3,162 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,450 mL
   Urine:
   2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,012 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Tender:
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   233 K/uL
   105 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.0 mEq/L
   13 mg/dL
   109 mEq/L
   136 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2101-9-16**]  03:37 AM
   WBC
   9.4
   Hct
   29.3
   Plt
   233
   Cr
   0.9
   Glucose
   105
   Other labs: PT / PTT / INR:14.0/30.9/1.2, ALT / AST:24/39, Alk Phos / T
   Bili:238/0.6, Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.3 %,
   Eos:0.5 %, Albumin:2.5 g/dL, LDH:651 IU/L, Ca++:7.3 mg/dL, Mg++:1.2
   mg/dL, PO4:3.3 mg/dL
   Imaging: chest CT: LUL collapse
   Microbiology: pending
   Assessment and Plan
   51M with widely metastatic colorectal ca, presents with hypotension,
   likely sepsis from uti. ongoing discussion of goals of care:
   sepsis:
   -cont abx for now
   -fluids, pressors as needed through
   -stress dose steroids
   -fu cultures
   -further workup pending further discussion
   widely metastatic
   -not candidate for further care
   dispo: case d/w sister / HCP, [**Name (NI) 1294**] ICU attending and IP attending.
   Patient is not a candidate for IP intervention. Will continue abx,
   pressors, fluids and medicines for pain. Will make pt DNR/I, no
   invasive procedures. If he loses ground, will transition to CMO.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2101-9-16**] 01:04 AM
   Indwelling Port (PortaCath) - [**2101-9-16**] 01:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2101-09-17 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: clogged nephrostomy tube
   24 Hour Events:
   [**2101-9-16**]
   - briefly on neo for pressor support in AM
   - pressors weaned off and patient slept most of day
   - pain controlled with PRN morphine
   - woke up and ate dinner in PM
   - discussed goals of care with patient and sister; made DNR/DNI, but
   still would like to be treated for reversible infections
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2101-9-16**] 08:15 PM
   Cefipime - [**2101-9-17**] 04:27 AM
   Ciprofloxacin - [**2101-9-17**] 04:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-9-16**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-17**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.2
   HR: 80 (80 - 118) bpm
   BP: 105/65(75) {71/31(44) - 114/74(86)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                 10,765 mL
                                                                    645 mL
   PO:
             TF:
   IVF:
                                                                  5,465 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  6,725 mL
                                                                    750 mL
   Urine:
                                                                  5,650 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    650 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  4,040 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General: writing in pain, moaning
   HEENT: Nc/AT, EOMI, anicteric, poor dentition.
   Neck: supple
   Lungs: b/l ae, diminished BS, anteriorly.
   CV: Regular rate and rhythm, normal S1 + S2, tachycardic
   Abdomen: +bs, +multiple areas of tubing, urine-cloudy.
   GU: no foley
   Ext: warm, well perfused, 2+ pulses
   neuro: somnolent, answers some questions AAOx1
   Labs / Radiology
   265 K/uL
   9.4 g/dL
   225 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.2 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   27.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2101-9-16**]  03:37 AM
                             [**2101-9-16**]  03:09 PM
                             [**2101-9-17**]  04:12 AM
   WBC
   9.4
   8.7
   Hct
   29.3
   27.9
   Plt
   233
   265
   Cr
   0.9
   1.0
   1.0
   Glucose
   105
   86
   225
   Other labs: PT / PTT / INR:14.2/29.1/1.2, ALT / AST:24/39, Alk Phos / T
   Bili:238/0.6, Differential-Neuts:92.6 %, Lymph:5.2 %, Mono:2.1 %,
   Eos:0.1 %, Albumin:2.5 g/dL, LDH:651 IU/L, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan: Pt is a 51 y.o male with h.o colon ca who presents
   with hypotension found to have a UTI.
   .
   #hypotension-Likely etiologies includes sepsis/infection. Other
   possibilities include hypovolemia vs. ACS vs PE. Most likely etiology
   includes infection secondary to UTI given cloudy/turbid/decreased
   outpt. Pt with normal lactate. Mentating and apparently asymptomatic
   despite BP in 80's while in the ED. However, now, somnolent.
   -map goal >65, to  be given via IVF vs. levophed vs. neo, would favor
   neo given tachycardia.
   -IVF for U.O at least 30cc/hr
   -broad spectrum abx vanco/zosyn/cipro
   -infectious w/u including bcx, ucx, sputum
   -f/u CTA chest/abd/pelvis from ED.
   -CXR
   -tele
   -ROMI
   -obtain OSH records to determine baseline BP as well as extent of dx.
   .
   .
   #goals of care-conversation with pt
s sister reveals, DNR/DNI without
   escalation currently.
   .
   #UTI-evidenced on u/a. Could be explaination to above in addition to
   the multiple surgical procedures.
   -ucx
   -IV vanco/zosyn/cipro for now
   .
   #AMS-Likely secondary to infection, hypotension and narcotic pain
   medication.
   -continue to monitor and consider head imaging if indicated.
   .
   #leukocytosis-pt on steroids, but likely related to infection, given
   hypotension and +u/a with cloudy/turbid urostomy outpt.
   -monitor WBC count and fever curve
   -abx
   -f/u cxs.
   .
   #L.upper lung mass/collapse?-likely exudative from malignancy. However,
   could represent infection or parapneumonic effusion.
   -broad abx for now
   -can consider dx and tx [**Female First Name (un) 217**]
   .
   #widely metastatic colon ca/severe pain-continue pain regimen. Pt with
   reportedly widely metastatic dx s/p resections and ileostomies.
   -OSH/PCP [**Name Initial (PRE) **].
   -aggressive pain control.
   .
   #anemia-MCV 91, unclear baseline.
   -continue to monitor
   -T+S
   -[**Hospital1 7**] HCTs
   -guaiac all stools.
   .
   FEN: reg diet as tolerated, currently NPO as AMS.
   .
   Prophylaxis: Subutaneous heparin, pneumoboots, PPI, bowel reg.
   .
   Access: port-a-cath, 18 gauge.
   .
   Code: Full discussed with pt and HCP, sister [**Name (NI) 9175**].
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-9-16**] 01:04 AM
   Indwelling Port (PortaCath) - [**2101-9-16**] 01:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-17 12:10:00 Physician Attending Progress Note
Chief Complaint: sepsis, uti
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with widely metastatic colorectal CA, presented with ?UTI and
   ?nephrostomy tube malfunction, briefly on pressors, now resolved:
   24 Hour Events:
   -goals of care discussion with patient and HCP: DNR/DNI
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2101-9-17**] 04:27 AM
   Ciprofloxacin - [**2101-9-17**] 04:27 AM
   Vancomycin - [**2101-9-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-9-17**] 08:00 AM
   Omeprazole (Prilosec) - [**2101-9-17**] 08:00 AM
   Other medications:
   zoloft, omeptrazole, lidocaine, gaba, fent 100, morphine, hyrdocort,
   cipro, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, No(t) Foley
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-9-17**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.4
   HR: 98 (80 - 118) bpm
   BP: 101/65(72) {90/55(65) - 114/74(86)} mmHg
   RR: 13 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                 10,765 mL
                                                                    922 mL
   PO:
             TF:
   IVF:
                                                                  5,465 mL
                                                                    922 mL
   Blood products:
   Total out:
                                                                  6,725 mL
                                                                  1,275 mL
   Urine:
                                                                  5,650 mL
                                                                    575 mL
   NG:
   Stool:
                                                                    650 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                  4,040 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: somewhat hard, Non-tender
   Extremities: warm, minimal R>L lower extremity edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   265 K/uL
   225 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.2 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   27.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2101-9-16**]  03:37 AM
                             [**2101-9-16**]  03:09 PM
                             [**2101-9-17**]  04:12 AM
   WBC
   9.4
   8.7
   Hct
   29.3
   27.9
   Plt
   233
   265
   Cr
   0.9
   1.0
   1.0
   Glucose
   105
   86
   225
   Other labs: PT / PTT / INR:14.2/29.1/1.2, ALT / AST:24/39, Alk Phos / T
   Bili:238/0.6, Differential-Neuts:92.6 %, Lymph:5.2 %, Mono:2.1 %,
   Eos:0.1 %, Albumin:2.5 g/dL, LDH:651 IU/L, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Imaging: no new
   Microbiology: ucx: polymicrobial
   Assessment and Plan
   51M with widely metastatic colorectal ca, presented with hyptension,
   likely urosepsis, now off pressors and doing well:
   septic shock: resolve
   -will request ucx results from osh
   -cont broad abx for now, planning to change tomorrow
   -ivf as needed
   -send cultures from both tubes
   pain:
   -cont aggresesive pain control given patient's goals of care
   cancer, lul collapse
   -ntd given lack of resp issues
   chronic steroids
   -clarify reason for home use and switch back to home dose for now
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2101-9-16**] 01:04 AM
   Indwelling Port (PortaCath) - [**2101-9-16**] 01:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes